US07994331B2
Production of 5-(tetrahydrofuran-2-yl)-6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole
P-toluenesulfonic acid monohydrate (20 mg) was added to a chloroform (4 ml) solution of 1-(6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-5-yl)butane-1,4-diol (81 mg) obtained in (step 1), and the reaction liquid was stirred overnight with heating under reflux. The solvent was evaporated away under reduced pressure, and the reaction mixture was purified through reversed-phase middle-pressure liquid chromatography (ODS-AS-360-CC (by YMC), mobile phase: water/acetonitrile/0.1% trifluoroacetic acid), and the resulting fraction was diluted with ethyl acetate, washed with aqueous saturated sodium bicarbonate and saturated saline water in that order, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure to obtain the entitled compound as a white solid.

reactant | 1-(6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazol-5-yl)butane-1,4-diol | 81 mg | C(C)S(=O)(=O)C1=CC=C(OC=2C(=CC3=C(NC(=N3)C3=NC=CC=C3)C2)C(CCCO)O)C=C1 | C24H25N3O5S
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(tetrahydrofuran-2-yl)-6-(4-(ethylsulfonyl)phenoxy)-2-pyridin-2-yl-1H-benzimidazole | O1C(CCC1)C1=CC2=C(NC(=N2)C2=NC=CC=C2)C=C1OC1=CC=C(C=C1)S(=O)(=O)CC | C24H23N3O4S
